US08357705B2
tert-butyl-(1R)-1-(4-hydroxy-4-methyl-4,5-dihydrothiazol-2-yl)-2-(1H-indol-3-yl)ethyl carbamate
A solution of (R)-tert-butyl-1-amino-3-(1H-Indol-3-yl)-1-thioxopropan-2-yl carbamate (6.49 g, 20.3 mmol) in anhydrous dimethoxyethane (100 mL) was mixed with powdered potassium hydrogencarbonate (10.1 g, 101 mmol) and chloroacetone (9.69 g, 8.4 mL, 101 mmol) and stirred for 8 h at 70° C. and over the weekend at 45° C. The reaction mixture was then filtered and the filtrate concentrated to low volume in a vacuum.

reactant | (R)-tert-butyl-1-amino-3-(1H-Indol-3-yl)-1-thioxopropan-2-yl carbamate | 20.3 mmol, 6.49 g | C(N)(O[C@@H](C(=S)N)C(C1=CNC2=CC=CC=C12)C(C)(C)C)=O | C16H21N3O2S
reactant | potassium hydrogencarbonate | 101 mmol, 10.1 g | C(O)([O-])=O.[K+]
reactant | chloroacetone | 101 mmol, 8.4 mL, 9.69 g | ClCC(C)=O | C3H5ClO
solvent | dimethoxyethane | 100 mL | C(OC)COC | C4H10O2
product | tert-butyl-(1R)-1-(4-hydroxy-4-methyl-4,5-dihydrothiazol-2-yl)-2-(1H-indol-3-yl)ethyl carbamate | C(N)(O[C@H](C(C1=CNC2=CC=CC=C12)C(C)(C)C)C=1SCC(N1)(C)O)=O | C19H25N3O3S
